US04435417
8-methoxy-2-(4-methoxyphenyl)-3-methyl-3H-naphtho[1,2-d]imidazole hydrochloride
The compound of the title, as the free base, is prepared by following essentially the same procedure described in example 2 but using 7-methoxy-2-methylamino-1-nitrosonaphthalene instead of 2-methylamino-1-nitrosonaphthalene and 4-methoxybenzaldehyde instead of 4-ethoxybenzaldehyde. By addition of HCl to a diethyl ether solution of the free base, the corresponding hydrochloride precipitates. Yield 40%. M.p. 265° C. dec. (from methanol).

reactant | 7-methoxy-2-methylamino-1-nitrosonaphthalene | COC1=CC=C2C=CC(=C(C2=C1)N=O)NC | C12H12N2O2
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | HCl | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 8-methoxy-2-(4-methoxyphenyl)-3-methyl-3H-naphtho[1,2-d]imidazole hydrochloride | Yield 40% | Cl.COC1=CC=C2C=CC3=C(N=C(N3C)C3=CC=C(C=C3)OC)C2=C1 | InChI=1S/C20H18N2O2.ClH/c1-22-18-11-7-13-4-10-16(24-3)12-17(13)19(18)21-20(22)14-5-8-15(23-2)9-6-14;/h4-12H,1-3H3;1H
